US07186715B2
3-(4-Chloro-phenyl)-2-[(1,1-dimethyl-1,2,3,4-tetrahydro-isoquinoline-3-carbonyl)-amino]-propionic acid methyl ester
To a solution of 1,1-dimethyl Tic (240 mg, 1.17 mmol), 4-Cl-D-Phe-OMe (322 mg, 1.28 mmol), HOBT (197 mg, 1.46 mmol), and DIPEA (0.81 mL, 44.68 mmol) in DCM/DMF (1:1) was added EDC (280 mg, 1.46 mmol). The resulting mixture was stirred at r.t. overnight. The mixture was then diluted with EtOAc (100 mL), washed with saturated aqueous NaHCO3 and brine, and then dried (Na2SO4) and concentrated to dryness. Purification and separation of diastereomers by flash chromatography (35 g SiO2, linear gradient, 40 mL/min 10–50% EtOAc/hexane for 25 minutes and 50% EtOAc/hexane for 7 minutes) afforded the final compound. LRMS (ESI+): 401.1 (M+H)

reactant | 4-Cl-D-Phe-OMe | 1.28 mmol, 322 mg | N[C@H](CC1=CC=C(C=C1)Cl)C(=O)OC | C10H12ClNO2
reactant | HOBT | 1.46 mmol, 197 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 44.68 mmol, 0.81 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC | 1.46 mmol, 280 mg
reactant | DCM DMF | C(Cl)Cl.CN(C)C=O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 3-(4-Chloro-phenyl)-2-[(1,1-dimethyl-1,2,3,4-tetrahydro-isoquinoline-3-carbonyl)-amino]-propionic acid methyl ester | COC(C(CC1=CC=C(C=C1)Cl)NC(=O)C1NC(C2=CC=CC=C2C1)(C)C)=O | C22H25ClN2O3
